US04923857
To a solution of (3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-carboxymethyl-2-oxoazetidine (302.6 mg) in dimethylformamide (10 ml) was added potassium carbonate (160 mg) at ° C. After 10 minutes, to the mixture was added dropwise methyl iodide (68.8 μ1). After stirring at 0° C. for 1.5 hours, the reaction mixture was poured into a mixture of ethyl acetate (100 ml) and water (30 ml). The organic layer was separated, washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave (3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-methoxycarbonylmethyl-2-oxoazetidine (285.5 mg).

reactant | (3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-carboxymethyl-2-oxoazetidine | 302.6 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(=O)O)=O | C13H25NO4Si
reactant | potassium carbonate | 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | (3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-methoxycarbonylmethyl-2-oxoazetidine | 285.5 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(=O)OC)=O | C14H27NO4Si
